US06605629B1
A mixture of methyl 3-[2-oxo-4-(4-trifluoromethylphenyl)-4-oxazolin-5-yl]propionate (3.90 g), phosphorus oxychloride (11.5 g) and pyridine (0.98 g) was heated to 100-105° C. and stirred for 1 hour. The reaction mixture was added dropwise to heated water (100 ml) of 30 ° C. and extracted with ethyl acetate (150 ml×2). The organic layer was washed with a saturated aqueous solution of sodium chloride (100 ml), and dried over anhydrous magnesium sulfate. The organic layer was concentrated, the residue was subjected to silica gel column chromatography, and methyl 2-chloro-4-(4-trifluoromethylphenyl)-5-oxazolepropionate was obtained as a yellow oil (2.66 g, 64%) from an ethyl acetate-hexane (1:4, v/v)-eluted fraction.

reactant | methyl 3-[2-oxo-4-(4-trifluoromethylphenyl)-4-oxazolin-5-yl]propionate | 3.90 g | O=C1OC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCC(=O)OC | C14H12F3NO4
reactant | phosphorus oxychloride | 11.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | pyridine | 0.98 g | N1=CC=CC=C1 | C5H5N
solvent | water | 100 ml | O | H2O
product | methyl 2-chloro-4-(4-trifluoromethylphenyl)-5-oxazolepropionate | ClC=1OC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCC(=O)OC | C14H11ClF3NO3
